US05663366
2 g (7.02 mmoles) of 3,5-dibromo-1-methyl-4-nitropyrazole are heated in a solution of 11 g (0.1 mole) of benzylamine in 50 ml ethanol for 10 hours at boiling temperature. After cooling, the reaction mixture is poured on 100 ml water, the separated product is filtered and washed with water (20 ml). After vacuum drying, 1.76 g (81 percent of theory) of 5-benzylamino-3-bromo-1-methyl-4-nitropyrazole are obtained in the form of yellow needles with a melting point of 133° C.

reactant | 3,5-dibromo-1-methyl-4-nitropyrazole | 7.02 mmoles, 2 g | BrC1=NN(C(=C1[N+](=O)[O-])Br)C | C4H3Br2N3O2
reactant | benzylamine | 0.1 mole, 11 g | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 100 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-benzylamino-3-bromo-1-methyl-4-nitropyrazole | 1.76 g, 81 percent | C(C1=CC=CC=C1)NC1=C(C(=NN1C)Br)[N+](=O)[O-] | C11H11BrN4O2
